US08383652B2
20 mL (112 mmol) of ethyl diethoxyacetate, 16 mL (224 mmol) of acetyl chloride and 60 mg (0.2 mmol) of iodine are placed in a round-bottomed flask and heated at 50° C. for 24 hours. The reaction progress is monitored by NMR. The excess acetyl chloride is removed by evaporation under vacuum. 19 g (100%) of ethyl chloroethoxyacetate are obtained in the form of a liquid colored brown by the residual iodine.

reactant | ethyl diethoxyacetate | 112 mmol, 20 mL | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | acetyl chloride | 224 mmol, 16 mL | C(C)(=O)Cl | C2H3ClO
catalyst | iodine | 0.2 mmol, 60 mg | II | I2
product | ethyl chloroethoxyacetate | 19 g, 100% | ClCCOCC(=O)OCC | C6H11ClO3
